US05910498
7-(3-aminoazetidin-1-yl)-1-(3-amino-4,6-difluorophenyl)-1,4-dihydro-4-oxo-1,8-naphthyridine-3-carboxylic acid
With stirring at 80° C., 100 mg of 1-(3-amino-4,6-difluorophenyl)-7-chloro-1,4-dihydro-4-oxo-1,8-naphthyridine-3-carboxylic acid was added to a solution of 61 mg of 3-aminoazetidine dihydrochloride and 119 mg of N-methylpyrrolidine in 3 ml of acetonitrile. The solution was stirred at 80° C. for 2 hours and 50 minutes. After the reaction solution was allowed to cool down, decantation with diethyl ether was carried out. The solid was dispersed by adding a small amount of ethanol and collected by filtration. The solid was washed with ethanol and then diethyl ether to give 63 mg of the title compound.

reactant | 1-(3-amino-4,6-difluorophenyl)-7-chloro-1,4-dihydro-4-oxo-1,8-naphthyridine-3-carboxylic acid | 100 mg | NC=1C=C(C(=CC1F)F)N1C=C(C(C2=CC=C(N=C12)Cl)=O)C(=O)O | C15H8ClF2N3O3
reactant | 3-aminoazetidine dihydrochloride | 61 mg | Cl.Cl.NC1CNC1
reactant | N-methylpyrrolidine | 119 mg | CN1CCCC1 | C5H11N
reactant | diethyl ether | C(C)OCC | C4H10O
solvent | acetonitrile | 3 ml | C(C)#N | C2H3N
solvent | ethanol | C(C)O | C2H6O
product | 7-(3-aminoazetidin-1-yl)-1-(3-amino-4,6-difluorophenyl)-1,4-dihydro-4-oxo-1,8-naphthyridine-3-carboxylic acid | 63 mg | NC1CN(C1)C1=CC=C2C(C(=CN(C2=N1)C1=CC(=C(C=C1F)F)N)C(=O)O)=O | C18H15F2N5O3
